US04072760
3-(4-Methoxybenzamido)-4-hydroxy-α-(tert.butylaminomethyl)-benzylalcohol hydrochloride.
A solution of 4-methoxybenzoic acid (0.76 g, 0.0050 mole) and of triethyl amino (0.70 ml, 0.0050 mole) in dry acetone (8 ml) was cooled to -15° C and ethyl chloroformate (0.54 g, 0.0050 mole) was added dropwise. The mixture was stirred 30 minutes at -15° C, and 30 minutes at 0° C, and then cooled to -15° C. A solution of 3-amino-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride in acetone (10 ml) and water (1.7 ml) was cooled to -15° C and added to the reaction mixture in one portion. The solution obtained was stirred at -15° C for 30 minutes, at 0° C for 30 minutes, and at room temperature for 1 hour. The solution was evaporated in vacuum and the residue was recrystallized from water yielding 1.02 g (52%), m.p. 224°-225° C of the title compound, identical to the compound prepared in Example 5.

reactant | 4-methoxybenzoic acid | 0.0050 mole, 0.76 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | ethyl chloroformate | 0.0050 mole, 0.54 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-amino-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride | Cl.NC=1C=C(C(CNC(C)(C)C)O)C=CC1O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 1.7 ml | O | H2O
product | 3-(4-Methoxybenzamido)-4-hydroxy-α-(tert.butylaminomethyl)-benzylalcohol hydrochloride | Cl.COC1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=CC2O)C=C1 | InChI=1S/C20H26N2O4.ClH/c1-20(2,3)21-12-18(24)14-7-10-17(23)16(11-14)22-19(25)13-5-8-15(26-4)9-6-13;/h5-11,18,21,23-24H,12H2,1-4H3,(H,22,25);1H
